US04579847
3-[N-(3-benzylidene-9-oxo-1,2,3,9-tetrahydro-pyrrolo[2,1-b]quinazolin-6-yl)-aminocarbonyl]-benzoic acid, methyl ester (0.85 g) dissolved in dimethylformamide (40 ml) was added to a suspension of 50% NaH (0.18 g) in dimethylformamide (5 ml) and the mixture was stirred at room temperature for 1 hour and then reacted with methyl iodide (0.54 g) at room temperature for 17 hours. The reaction mixture was diluted with ice water and then acidified with acetic acid: the precipitate was filtered and purified over a flash column using chloroform-ethyl acetate 3:1 as eluant. A further purification from isopropyl ether gave 3-[N-methyl-N-(3-benzylidene-9-oxo-1,2,3,9-tetrahydro-pyrrolo[2,1-b]quinazolin-6-yl)-aminocarbonyl]-benzoic acid, methyl ester, m.p. 200°-202° C. (0.42 g), which was dissolved in dimethylformamide (20 ml) and treated with 5% aqueous NaOH (3.6 ml) at room temperature for 2 hours. The precipitate, 3-[N-methyl-N-(3-benzylidene-9-oxo-1,2,3,9-tetrahydro-pyrrolo[2,1-b]quinazolin-6-yl)-aminocarbonyl]-benzoic acid, sodium salt, m.p. >300° C., was filtered and then dissolved in formic acid: the solution was diluted with water to give a precipitate which was filtered and washed with water until neutral. Crystallization from dichloromethane-methanol gave 0.2 g of 3-[N-methyl-N-(3-benzylidene-9-oxo-1,2,3,9-tetrahydro-pyrrolo[2,1-b]quinazolin-6-yl)-aminocarbonyl]-benzoic acid, m.p. 302°-304° C., NMR (CDCl3) δ ppm.: 3.38 (m) (2H, C- 2 protons), 3.61 (s) (3H, CH3), 4.32 (t) (2H, C-1 protons), 7.14 (dd) (1H, C-7 proton), 7.32 (t) (1H, C-5 benzoyl proton), 7.35-7.85 (m) (7H, C-4 and C-6 benzoyl protons and phenyl protons), 7.88 (bs) (1H, --CH=), 8.00 (bd) (1H, C-5 proton), 8.13 (d) (1H, C-8 proton), 8.15 (bs) (1H, C-2 benzoyl proton).

reactant | 3-[N-(3-benzylidene-9-oxo-1,2,3,9-tetrahydro-pyrrolo[2,1-b]quinazolin-6-yl)-aminocarbonyl]-benzoic acid, methyl ester | 0.85 g | C(C1=CC=CC=C1)=C1CCN2C1=NC=1C=C(C=CC1C2=O)NC(=O)C=2C=C(C(=O)OC)C=CC2 | C27H21N3O4
reactant | NaH | 0.18 g | [H-].[Na+]
reactant | methyl iodide | 0.54 g | CI | CH3I
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 3-[N-methyl-N-(3-benzylidene-9-oxo-1,2,3,9-tetrahydro-pyrrolo[2,1-b]quinazolin-6-yl)-aminocarbonyl]-benzoic acid, methyl ester | CN(C(=O)C=1C=C(C(=O)OC)C=CC1)C=1C=CC=2C(N3C(=NC2C1)C(CC3)=CC3=CC=CC=C3)=O | C28H23N3O4
